US04431841
To a 500 ml, 3-necked round bottom flask were added 92 g (500 mmole) p-aminodiphenylamine, 61 ml (600 mmole) cyclohexanone, 82 ml (800 mmole) nitrobenzene, 120 ml xylene solvent and 1.0 g of 5% palladium on carbon catalyst (0.05 g Pd). Using essentially the procedure of Example 1 the reaction was (A) carried out without acid and then again (B) in the presence of 3 millimoles of sulfuric acid. Reaction (B) provided about 40% (mole) more yield of DPPD over reaction (A) after 7 hours at reflux.

reactant | p-aminodiphenylamine | 500 mmole, 92 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
reactant | cyclohexanone | 600 mmole, 61 ml | C1(CCCCC1)=O | C6H10O
reactant | nitrobenzene | 800 mmole, 82 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sulfuric acid | 3 millimoles | S(O)(O)(=O)=O | H2O4S
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | N,N'-Diphenyl-p-phenylenediamine | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
